### PR TITLE
clean up manual instantiation in CRefine

### PR DESCRIPTION
**Pull request by lsf37**
As promised in #1035, clean up that manual instantiation. The right combination of `ccorres_if_bindE_lhs` and `ccorres_symb_exec_r2` does the trick in the end (plus avoiding further `ccorres_symb_exec_r2` steps later by  using `ccorres_cond_both'` later).

### CODE REVIEW

File: lib/clib/CCorresLemmas.thy [hunk 1]
```diff
@@ -630,6 +630,22 @@ lemma ccorres_if_lhs:
           hs (if P then f else g) conc"
   by (simp split: if_split)
 
+lemma ccorres_if_bind_lhs:
+  "\<lbrakk> P \<Longrightarrow> ccorres_underlying sr Gamm r xf arrel axf Q S hs (f >>= m) conc;
+     \<not> P \<Longrightarrow> ccorres_underlying sr Gamm r xf arrel axf R T hs (g >>= m) conc \<rbrakk>
+   \<Longrightarrow> ccorres_underlying sr Gamm r xf arrel axf (\<lambda>s. (P \<longrightarrow> Q s) \<and> (\<not> P \<longrightarrow> R s))
+                      {s. (P \<longrightarrow> s \<in> S) \<and> (\<not> P \<longrightarrow> s \<in> T)}
+          hs ((if P then f else g) >>= m) conc"
```
Comment (Xaphiosis) [inline lib/clib/CCorresLemmas.thy:638]: something worth considering for these is whether you want a `>>= (λrv. m rv)` for name binding to carry through

File: proof/crefine/ARM/Arch_C.thy [hunk 2]
```diff
@@ -2392,122 +2393,81 @@ lemma decodeARMFrameInvocation_ccorres:
...
-                    apply (rule syscall_error_throwError_ccorres_n)
-                    apply (simp add: syscall_error_to_H_cases)
-                   apply clarsimp
-                  apply assumption
-                 apply clarsimp
-                 apply vcg
-                 apply clarsimp
+               apply (simp add: injection_handler_whenE cong: ccorres_prog_only_cong)
+               apply csymbr
+               apply ccorres_rewrite
```
Comment (Xaphiosis) [inline proof/crefine/ARM/Arch_C.thy:2423]: csymbr followed by ccorres_rewrite seems unusual, wouldn't the rewrite be possible earlier already?

File: proof/crefine/ARM/Arch_C.thy [hunk 3]
```diff
@@ -2392,122 +2393,81 @@ lemma decodeARMFrameInvocation_ccorres:
...
+               apply (rule ccorres_if_cond_throws[rotated -1,where Q = \<top> and Q' = \<top>])
+                  apply vcg
+                 apply (clarsimp simp: hd_drop_conv_nth hd_conv_nth)
+                 apply (clarsimp dest!: ccap_relation_PageCap_generics)
+                apply (simp add: injection_handler_throwError)
+                apply (rule syscall_error_throwError_ccorres_n)
+                apply (simp add: syscall_error_to_H_cases)
+               apply csymbr
+               apply csymbr
+               apply csymbr
```
Comment (Xaphiosis) [inline proof/crefine/ARM/Arch_C.thy:2453]: does csymbr have an argument for the number of times it should apply?

File: proof/crefine/ARM/Arch_C.thy [hunk 4]
```diff
@@ -2392,122 +2393,81 @@ lemma decodeARMFrameInvocation_ccorres:
...
+               apply (simp add: performARMMMUInvocations bindE_assoc)
+               apply (ctac add: setThreadState_ccorres)
+                 apply (ctac(no_vcg) add: performPageFlush_ccorres)
```
Comment (Xaphiosis) [inline proof/crefine/ARM/Arch_C.thy]: I think style-wise we're more prone to `ctac (no_vcg)`

**Review by Xaphiosis — APPROVED** [review]

File: proof/crefine/ARM/Arch_C.thy (hunk 3 above)
Comment (lsf37) [reply proof/crefine/ARM/Arch_C.thy:2453]: no, we have this kinds of pattern everywhere. Maybe we should add an argument, though. I guess once could write `repeat 3 csymbr`, but then again these proofs are painful enough that you want to be able to single-step through and see what is happening.

File: proof/crefine/ARM/Arch_C.thy (hunk 4 above)
Comment (lsf37) [reply proof/crefine/ARM/Arch_C.thy]: this is just reindented, I didn't write any of that

File: lib/clib/CCorresLemmas.thy (hunk 1 above)
Comment (lsf37) [reply lib/clib/CCorresLemmas.thy:638]: Hm, interesting. I don't think this should be necessary for these, but need to confirm -- the bound name there does not appear as another bound name in the goal, so there is nothing for Isabelle to transport. But the whole mechanism is obscure enough that I'm not entirely sure. Will try it out.

File: proof/crefine/ARM/Arch_C.thy (hunk 4 above)
Comment (lsf37) [reply proof/crefine/ARM/Arch_C.thy]: (happy to fix this one up, I just don't want to fix up the entire thing because it's large and old and very terrible and I don't want to touch more than necessary)

File: proof/crefine/ARM/Arch_C.thy (hunk 2 above)
Comment (lsf37) [reply proof/crefine/ARM/Arch_C.thy:2423]: I don't think you can. The csymbr evaluates a `ret__int = <constant value>` and the `corres_rewrite` evaluates the `IF` with that constant value. An initial `ccorres_rewrite` wouldn't evaluate the `ret_int` assignment.

You could also do a `simp` after the `csymbr`, but `corres_rewrite` is a bit less error prone.

File: lib/clib/CCorresLemmas.thy (hunk 1 above)
Comment (lsf37) [reply lib/clib/CCorresLemmas.thy:638]: Confirmed, it's not needed. The name survives without the explicit lambda (because the lambda is never taken apart)

Comment (Xaphiosis) [reply lib/clib/CCorresLemmas.thy:638]: I would like to get an intuition for this. Can you clarify what you mean by the lambda not being taken apart?

Comment (lsf37) [reply lib/clib/CCorresLemmas.thy:638]: This all started with rules like `(!!x. P x) ==> All (%x. P x)`. Note that the two `x` are different bound `x`. I.e. `(!!x. P x) ==> All (%y. P y)` would be the same rule by term equality. And they are different cases of bound-ness. The first (`!!`) is a goal parameter, the second is a normal lambda.

When you use the original rule (where the names are the same) on a goal that is `All (%z. P z)`,  you ideally want to see `!!z. P z` as the next subgoal. Operationally, the rule takes apart the lambda in `All (%z. P z)`, notes that the name was `z` and uses `z` as the name of the goal parameter. Overall, since the rule reused the name `x`, the rule application is also trying to reuse the instance of what `x` is in the goal. This applies only to names bound under lambda that become goal parameters.

In our rule above, this case doesn't apply, because the lambda still exists as the same lambda that it was before, the name is not reused as a goal parameter. Since the lambda sub-term just gets reused as a whole, it doesn't need any special handling for the name to survive, and it doesn't even need to mention that the sub-term is a lambda term.
